US06451816B1
N-(4-{1-[bis-(2-Chlorphenyl)-methyl]-piperidin-4-yl}-butyl)-3-(pyridin-3-yl)-acrylamid (Substance 186)
Batch size: 1.6 g (10.7 mmol) 3-(3-pyridyl)-acrylic acid, 1.9 g (15.0 mmol) oxalyl chloride and 3.9 g (10.0 mmol) 4-{1-[bis-(2-chlorophenyl)-methyl]-piperidine-4-yl}-butylamine. In the purification, chromatographic purification is done twice over silica gel with CHCl3/CH3OH (97/3 and 97/3 to 95/5) and crystallization is from 25 ml acetic acid after drawing off the solvent. Colorless crystals with a MP of 129-131° C. were recovered; yield: 0.6g (11%).

reactant | 3-(3-pyridyl)-acrylic acid | 10.7 mmol, 1.6 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 15.0 mmol, 1.9 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-{1-[bis-(2-chlorophenyl)-methyl]-piperidine-4-yl}-butylamine | 10.0 mmol, 3.9 g | ClC1=C(C=CC=C1)C(N1CCC(CC1)CCCCN)C1=C(C=CC=C1)Cl | C22H28Cl2N2
product | N-(4-{1-[bis-(2-Chlorphenyl)-methyl]-piperidin-4-yl}-butyl)-3-(pyridin-3-yl)-acrylamid | ClC1=C(C=CC=C1)C(N1CCC(CC1)CCCCNC(C=CC=1C=NC=CC1)=O)C1=C(C=CC=C1)Cl | C30H33Cl2N3O
